2139-10-07 10:27:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, altered mental status,
   metastatic lung ca, diarrhea.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Received sodium bicarbonate during the night. Arterial pH became
   alkalemic with PaCO2 below 30 on assist control. Patient appeared
   anxious and was given some sedation.
   Patient remains hemodynamically stable.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2139-10-6**] 01:57 PM
 INDWELLING PORT (PORTACATH) - START [**2139-10-6**] 02:00 PM
   ?when placed...at outside facility..accessed here by IV rn
 ARTERIAL LINE - START [**2139-10-6**] 04:24 PM
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2139-10-7**] 06:00 AM
   Vancomycin - [**2139-10-7**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2139-10-7**] 05:45 AM
   Heparin Sodium (Prophylaxis) - [**2139-10-7**] 08:00 AM
   Other medications:
   ASA, zovor, pepcid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-7**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 124 (119 - 136) bpm
   BP: 159/89(111) {106/70(83) - 160/92(114)} mmHg
   RR: 30 (12 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,178 mL
                                                                  3,190 mL
   PO:
             TF:
   IVF:
                                                                  3,118 mL
                                                                  2,780 mL
   Blood products:
   Total out:
                                                                  1,015 mL
                                                                    522 mL
   Urine:
                                                                    555 mL
                                                                    422 mL
   NG:
                                                                    460 mL
   Stool:
   100 mL
   Drains:
   Balance:
                                                                  2,163 mL
                                                                  2,668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   PS : 7 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 138
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.47/31/164/24/0
   Ve: 9 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds, largely obscured by breath
   sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , Rhonchorous: ), Coarse crackles
   and rhonchi diffusely; upper airway sounds, secretions
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Diffusely, No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Oriented (to): Not able to assess, Movement:
   Purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   574 K/uL
   232 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.3 mEq/L
   22 mg/dL
   99 mEq/L
   134 mEq/L
   31.6 %
   30.4 K/uL
        [image002.jpg]
                            [**2139-10-6**]  02:38 PM
                            [**2139-10-6**]  03:34 PM
                            [**2139-10-6**]  03:55 PM
                            [**2139-10-6**]  08:57 PM
                            [**2139-10-7**]  03:31 AM
                            [**2139-10-7**]  04:52 AM
                            [**2139-10-7**]  06:33 AM
   WBC
   24.4
   30.4
   Hct
   30.5
   31.6
   Plt
   462
   574
   Cr
   1.1
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   20
   18
   20
   23
   23
   Glucose
   126
   232
   Other labs: PT / PTT / INR:16.6/30.9/1.5, CK / CKMB /
   Troponin-T:74/3/<0.01, ALT / AST:[**5-3**], Alk Phos / T Bili:196/0.2,
   Differential-Neuts:97.0 %, Band:1.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:3.0 mmol/L, Albumin:1.5 g/dL, LDH:285 IU/L, Ca++:6.4
   mg/dL, Mg++:3.1 mg/dL, PO4:2.6 mg/dL
   Imaging: CT abdomen/chest - preliminary report - submucosal thickening
   of the colon with stranding. Left hydropneumothorax, loculated in
   chest. No PE seen. Tumor LUL/abutting mediastinum; some compression of
   LUL bronchus.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
   COPD
   METATSTATIC LUNG CANCER
   ANEMIA
   ABDOMINAL PAIN
   Patient showing high drive to breathe with use of accessory muscles and
   hyperventilation despite correction of metabolic acidosis. Not clear
   there is an acute change in the lung parenchyma; may have some
   compression of LUL bronchus from tumor.  Not clear why she has high
   drive; anxiety may be playing a role. Gas exchange in fine. Patient
   still has abdominal pain and that may be contributing to her present
   respiratory status. Continue bronchodilators.  Not ready for extubation
   at this time.
   Abdominal CT suggestive of inflammatory colitis. Continue treatment for
   C diff. Maintain broad spectrum antibiotics. WBC higher today. Would
   consult general surgery so they are aware in the event that
   intra-abdominal process worsens.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition: Begin tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2139-10-6**] 02:00 PM
   Arterial Line - [**2139-10-6**] 04:24 PM
   22 Gauge - [**2139-10-7**] 05:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2139-10-08 12:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, COPD, diarrhea, metabolic
   acidosis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tube feeds started. Had problems with tachypnea on PSV throught the
   night. RSBI > 100.
   Started on Cipro for positive urine culture.
   Hemodynamically stable.
   Hct stable.
   Diarrhea persists
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2139-10-7**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-8**] 06:00 AM
   Metronidazole - [**2139-10-8**] 08:30 AM
   Ciprofloxacin - [**2139-10-8**] 09:30 AM
   Vancomycin - [**2139-10-8**] 11:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Fentanyl - [**2139-10-7**] 08:15 PM
   Lorazepam (Ativan) - [**2139-10-7**] 08:55 PM
   Midazolam (Versed) - [**2139-10-7**] 09:15 PM
   Other medications:
   Flovent, simvastatin, heparin sc, famotidine, chlorhexidine, aspirin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-8**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 132 (111 - 140) bpm
   BP: 155/91(112) {96/68(78) - 193/99(134)} mmHg
   RR: 19 (12 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,526 mL
                                                                  1,539 mL
   PO:
             TF:
                                                                    122 mL
                                                                    527 mL
   IVF:
                                                                  5,914 mL
                                                                    932 mL
   Blood products:
   Total out:
                                                                  1,197 mL
                                                                    295 mL
   Urine:
                                                                    897 mL
                                                                    295 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  5,329 mL
                                                                  1,244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (427 - 600) mL
   PS : 18 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.45/26/202/18/-3
   NIF: -28 cmH2O
   Ve: 12.4 L/min
   PaO2 / FiO2: 505
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, bowel sounds diminished
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   543 K/uL
   138 mg/dL
   0.6 mg/dL
   18 mEq/L
   4.5 mEq/L
   22 mg/dL
   107 mEq/L
   135 mEq/L
   29.8 %
   28.7 K/uL
        [image002.jpg]
                            [**2139-10-6**]  08:57 PM
                            [**2139-10-7**]  03:31 AM
                            [**2139-10-7**]  04:52 AM
                            [**2139-10-7**]  06:33 AM
                            [**2139-10-7**]  05:15 PM
                            [**2139-10-8**]  03:20 AM
                            [**2139-10-8**]  03:47 AM
                            [**2139-10-8**]  06:43 AM
                            [**2139-10-8**]  08:06 AM
                            [**2139-10-8**]  10:10 AM
   WBC
   30.4
   28.7
   Hct
   31.6
   29.8
   Plt
   574
   543
   Cr
   0.8
   0.6
   TropT
   <0.01
   TCO2
   20
   23
   23
   18
   19
   19
   19
   19
   Glucose
   232
   138
   Other labs: PT / PTT / INR:16.0/27.2/1.4, CK / CKMB /
   Troponin-T:74/3/<0.01, ALT / AST:[**5-3**], Alk Phos / T Bili:196/0.2,
   Differential-Neuts:94.0 %, Band:1.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:2.0 mmol/L, Albumin:1.5 g/dL, LDH:285 IU/L, Ca++:6.2
   mg/dL, Mg++:2.8 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR: no significant change.
   Assessment and Plan
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
   ANEMIA
   METASTATIC LUNG CANCER
   Patient continues to demonstrate a respiratory alkalosis for unclear
   reasons. Has had varying amounts of autoPEEP depending on respiratory
   rate. Will try increasing her ventilator PEEP to see if that will
   achieve greater comfort and lower minute ventilation.
   Patient has variation in BP with respiratory cycle suggesting that she
   has a low intravascular volume. Will give her lactated Ringers solution
   to avoid worsening her metabolic acidosis.
   Hct stable. Not at transfusion threshold now.
   Try increasing fentanyl and decreasing versed; tachyardia and tachypnea
   may be due in part to pain.
   ICU Care
   Nutrition: tube feeds
   Replete with Fiber (Full) - [**2139-10-7**] 05:55 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2139-10-6**] 02:00 PM
   Arterial Line - [**2139-10-6**] 04:24 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:  PPI
   VAP: implemented protocol
   Comments:
   Communication:  Comments:
   Code status:   Full
   Disposition : ICU
   Total time spent: 35 critical care

2139-10-09 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient unable to move L side on exam -> sent for stat CT Head, but
   no bleed or acute intracranial process
   - Dr. [**Last Name (STitle) 161**] explained she had some mild L side weakness, and per his exam
   later at night she was at baseline.
   - Also he explained that she is incredibly anxious even at office
   visits and her RR responds very well to benzos -> he would recommend
   this.
   - Several LR boluses given for tachycardia.
   - Cipro (D#2) continued for UTI (from OSH) and C diff + (Vanc PO,
   Flagyl)
   - Patient required lots of narcotics for agitation -> dropped pressures
   a couple of times (although Non-Invasive and A-Line did not corolate).
   - Pt received 26mg IV Morphine overnight
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2139-10-7**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-8**] 06:00 AM
   Ciprofloxacin - [**2139-10-8**] 09:30 AM
   Metronidazole - [**2139-10-9**] 12:00 AM
   Vancomycin - [**2139-10-9**] 12:09 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2139-10-8**] 01:45 PM
   Famotidine (Pepcid) - [**2139-10-8**] 07:53 PM
   Midazolam (Versed) - [**2139-10-8**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2139-10-9**] 12:09 AM
   Morphine Sulfate - [**2139-10-9**] 05:30 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt winces to pain in abdomen. Otherwise nodded when
   asked if she was comfortable this AM.
   Flowsheet Data as of  [**2139-10-9**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.7
C (96.3
   HR: 129 (114 - 140) bpm
   BP: 66/58(62) {66/54(62) - 169/96(125)} mmHg
   RR: 17 (12 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia vs MAT?)
             Total In:
                                                                  5,756 mL
                                                                    550 mL
   PO:
             TF:
                                                                  1,253 mL
                                                                    386 mL
   IVF:
                                                                  4,304 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    295 mL
   Urine:
                                                                    665 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,791 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 467 (410 - 600) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 119
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.41/30/162/19/-3
   NIF: -28 cmH2O
   Ve: 10.3 L/min
   PaO2 / FiO2: 405
   Physical Examination
   Gen: Intubated, Sedated
   HEENT: PEERL
   RESP: Clear Anteriorly
   CARD: S1S2, Tachy
   Abd: Soft, Distended, Tympanic, Tender to Palpation
   Extr: No edema
   Neuro: Gross Movement of Left Sided, wiggling or right toes. Pt not
   moving RUE.
   Labs / Radiology
   462 K/uL
   9.6 g/dL
   108 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.9 mEq/L
   20 mg/dL
   105 mEq/L
   131 mEq/L
   30.5 %
   16.9 K/uL
        [image002.jpg] 7.41/30/173 (7am), 7.41/30/162 (4:30am)
                            [**2139-10-7**]  05:15 PM
                            [**2139-10-8**]  03:20 AM
                            [**2139-10-8**]  03:47 AM
                            [**2139-10-8**]  06:43 AM
                            [**2139-10-8**]  08:06 AM
                            [**2139-10-8**]  10:10 AM
                            [**2139-10-8**]  05:04 PM
                            [**2139-10-8**]  05:19 PM
                            [**2139-10-9**]  04:18 AM
                            [**2139-10-9**]  04:30 AM
   WBC
   28.7
   16.9
   Hct
   29.8
   30.5
   Plt
   543
   462
   Cr
   0.6
   0.7
   0.6
   TCO2
   18
   19
   19
   19
   19
   20
   20
   Glucose
   138
   130
   108
   Other labs: PT / PTT / INR:14.3/29.3/1.2, CK / CKMB /
   Troponin-T:74/3/<0.01, ALT / AST:[**5-3**], Alk Phos / T Bili:196/0.2,
   Differential-Neuts:94.0 %, Band:1.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:2.1 mmol/L, Albumin:1.5 g/dL, LDH:285 IU/L, Ca++:7.0
   mg/dL, Mg++:2.4 mg/dL, PO4:1.6 mg/dL
   CT Head: No interval change from [**2139-10-6**]
   Assessment and Plan
   67yoF with a hx of Breast CA and metastatic NSCLC remains intubated
   with respiratory failure of unclear etiology but likely multifactorial
   secondary to acid-base status.
   .
   # Acute Respiratory Failure:  Originally thought to be secondary to
   inability to compensate. Appears more comfortable on exam this AM. Pt
   now mildly alkalemic, now on PS 10/5 at 40% with gas of 7.41/30/173
   with a Bicarb of 19.  [**Month (only) 51**] be [**12-20**] to pain, anxiety vs sepsis (C. Diff vs
   Enterobacter UTI.). Leukocytosis improved from 28 to 16.9.  Matching
   PEEP with potential autopeep.
   - Increasing pain control to see if this improves resp alkalosis
   - Following ABGs
   - Treat underlying infections as below.
   - Nebs PRN
   - Fentanyl and Midaz
   - Continue advair
   - Will discuss with team regarding parameters for which to consider
   extubation given that patient continues to have high Auto-Peep.
   .
   # Underlying Metabolic Acidosis: Lactate now 1.7. Gap and Non-Gap with
   improved Gap.  Pt with C. Diff, appears dry clinically and has
   enterobacter UTI previously untreated. Pt was +5L overnight.
   - IV fluid boluses PRN.
   - Cont Cipro for UTI
   - Cont IV Flagyl, PO Vanc for C. Diff
   - f/u blood, urine, and sputum cultures
   - Trend WBC count fever curve
   .
   # NSCLC
 No current treatments. Per Lung CA, ULE no movement at
   baseline.
   - Followed closely by Dr. [**Last Name (STitle) 161**]
   .
   # Hyponatremia
 Slightly improved at 131 from 135. Most likely
   secondary to giving LR boluses (130 of Na) overnight.
   - Will discuss with team potentially holding IVF now that the pt
   appears more clinically euvolemic.
   .
   # HTN -  BP elevates with agitation. Stable overnight.
   - Hydral PRN
   .
   # H/O breast CA: stable w/o recurrence
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-10-9**] 01:05 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2139-10-6**] 02:00 PM
   Arterial Line - [**2139-10-6**] 04:24 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: H2
   VAP:  Bundle
   Code status: Full
   Disposition: [**Hospital Unit Name 1**]

2139-10-09 12:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, COPD, altered mental status,
   anemia, metastatic lung ca, C. diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient given additional narcotics last night for pain and dyspnea. She
   was more alert this AM.
   Tachycardia persists.
   On PSV 10/10 this AM on vent.
   WBC improved. Hct stable.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2139-10-7**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-8**] 06:00 AM
   Vancomycin - [**2139-10-9**] 12:09 AM
   Metronidazole - [**2139-10-9**] 07:57 AM
   Ciprofloxacin - [**2139-10-9**] 08:54 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2139-10-8**] 01:45 PM
   Famotidine (Pepcid) - [**2139-10-8**] 07:53 PM
   Midazolam (Versed) - [**2139-10-8**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2139-10-9**] 07:57 AM
   Morphine Sulfate - [**2139-10-9**] 11:00 AM
   Lorazepam (Ativan) - [**2139-10-9**] 11:22 AM
   Other medications:
   heparin sc, zocor, albuterol, atrovent, asa, chlorhexidine, flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-9**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 139 (114 - 150) bpm
   BP: 183/103(130) {66/54(62) - 183/103(130)} mmHg
   RR: 25 (17 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,756 mL
                                                                  1,465 mL
   PO:
             TF:
                                                                  1,253 mL
                                                                    700 mL
   IVF:
                                                                  4,304 mL
                                                                    705 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    363 mL
   Urine:
                                                                    665 mL
                                                                    363 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,791 mL
                                                                  1,102 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (410 - 490) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 119
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.41/30/173/19/-3
   Ve: 9.2 L/min
   PaO2 / FiO2: 433
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, Anxious, No(t) Diaphoretic, Use of accessory
   muscles
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes : soft,
   expiratory wheeze, Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   No(t) Obese
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Unable to assess with intubation,
   Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   462 K/uL
   108 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.9 mEq/L
   20 mg/dL
   105 mEq/L
   131 mEq/L
   30.5 %
   16.9 K/uL
         [image002.jpg]
                            [**2139-10-8**]  03:20 AM
                            [**2139-10-8**]  03:47 AM
                            [**2139-10-8**]  06:43 AM
                            [**2139-10-8**]  08:06 AM
                            [**2139-10-8**]  10:10 AM
                            [**2139-10-8**]  05:04 PM
                            [**2139-10-8**]  05:19 PM
                            [**2139-10-9**]  04:18 AM
                            [**2139-10-9**]  04:30 AM
                            [**2139-10-9**]  06:58 AM
   WBC
   28.7
   16.9
   Hct
   29.8
   30.5
   Plt
   543
   462
   Cr
   0.6
   0.7
   0.6
   TCO2
   19
   19
   19
   19
   20
   20
   20
   Glucose
   138
   130
   108
   Other labs: PT / PTT / INR:14.3/29.3/1.2, CK / CKMB /
   Troponin-T:74/3/<0.01, ALT / AST:[**5-3**], Alk Phos / T Bili:196/0.2,
   Differential-Neuts:94.0 %, Band:1.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:1.7 mmol/L, Albumin:1.5 g/dL, LDH:285 IU/L, Ca++:7.0
   mg/dL, Mg++:2.4 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
   COPD
   ANEMIA
   Patient's overall status without much change. My sense is that she
   might be able to tolerate extubation, although RSBI elevated and she
   continues to have tachypnea and hyperventilation for unclear reasons.
   Continue bronchodilators. We increased narcotics with some effect
   yesterday. Will increase benzo's today.
   Lactate is coming down.
   Hct stable. No evidence of ongoing bleeding. Not at transfusion
   threshold.
   Diarrhea improving on treatment for C. diff.
   Will recheck ECG. Not clear if she has sinus tach or MAT.
   ICU Care
   Nutrition: tube feeding.
   Replete with Fiber (Full) - [**2139-10-9**] 01:05 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2139-10-6**] 02:00 PM
   Arterial Line - [**2139-10-6**] 04:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2139-10-10 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Episode of tachypnea to 40s, SBP to 80s/60 at approx 10pm, pt
   disconnected from vent and bag'ed to decreased [**Name (NI) 3819**], pt's SBP
   responded to 120's.
   - Met with Dr. [**Last Name (STitle) 161**] and in discuss with the family over the phone the pt
   was made DNR
   - Pt subsequently placed back on full pressure support and sedated,
   with subsequent pressure drop, pt then placed on NeoSynephrine and
   titrated down
   -FEVER - 102.0
 BCx, UCx, Stool sent
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-8**] 06:00 AM
   Vancomycin - [**2139-10-9**] 12:09 AM
   Metronidazole - [**2139-10-9**] 07:57 AM
   Ciprofloxacin - [**2139-10-9**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-10-9**] 08:09 PM
   Morphine Sulfate - [**2139-10-9**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2139-10-10**] 01:00 AM
   Midazolam (Versed) - [**2139-10-10**] 04:30 AM
   Fentanyl - [**2139-10-10**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-10**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 150 (131 - 153) bpm
   BP: 90/65(73) {75/57(65) - 183/111(130)} mmHg
   RR: 45 (17 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
             Total In:
                                                                  2,841 mL
                                                                  1,402 mL
   PO:
             TF:
                                                                  1,441 mL
                                                                    373 mL
   IVF:
                                                                  1,220 mL
                                                                    898 mL
   Blood products:
   Total out:
                                                                  1,209 mL
                                                                    215 mL
   Urine:
                                                                    759 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,632 mL
                                                                  1,187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 470 (460 - 470) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/33/443/18/-6
   Ve: 19.1 L/min
   PaO2 / FiO2: 886
   Physical Examination
   Gen: Intubated, Sedated
   HEENT: PEERL
   RESP: Clear Anteriorly
   CARD: S1S2, Tachy
   Abd: Soft, Distended, Tympanic, Tender to Palpation
   Extr: No edema
   Neuro: Gross Movement of Left Sided, wiggling or right toes. Pt not
   moving RUE.
   Labs / Radiology
   500 K/uL
   9.0 g/dL
   148 mg/dL
   0.6 mg/dL
   18 mEq/L
   4.8 mEq/L
   28 mg/dL
   109 mEq/L
   137 mEq/L
   28.5 %
   16.9 K/uL
        [image002.jpg]
                            [**2139-10-8**]  05:04 PM
                            [**2139-10-8**]  05:19 PM
                            [**2139-10-9**]  04:18 AM
                            [**2139-10-9**]  04:30 AM
                            [**2139-10-9**]  06:58 AM
                            [**2139-10-9**]  05:17 PM
                            [**2139-10-9**]  05:27 PM
                            [**2139-10-9**]  09:25 PM
                            [**2139-10-10**]  01:21 AM
                            [**2139-10-10**]  04:38 AM
   WBC
   16.9
   Hct
   30.5
   28.5
   Plt
   462
   500
   Cr
   0.7
   0.6
   0.6
   0.6
   TCO2
   20
   20
   20
   19
   17
   19
   Glucose
   130
   108
   127
   132
   148
   Other labs: PT / PTT / INR:14.3/29.3/1.2, CK / CKMB /
   Troponin-T:74/3/<0.01, ALT / AST:[**5-3**], Alk Phos / T Bili:196/0.2,
   Differential-Neuts:94.0 %, Band:1.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:1.7 mmol/L, Albumin:1.5 g/dL, LDH:285 IU/L, Ca++:7.1
   mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   67yoF with a hx of Breast CA and metastatic NSCLC remains intubated
   with respiratory failure of unclear etiology but likely multifactorial
   secondary to acid-base status.
   .
   # Acute Respiratory Failure:  Originally thought to be secondary to
   inability to compensate. Appears more comfortable on exam this AM. Pt
   now mildly alkalemic, now on PS 10/5 at 40% with gas of 7.41/30/173
   with a Bicarb of 19.  [**Month (only) 51**] be [**12-20**] to pain, anxiety vs sepsis (C. Diff vs
   Enterobacter UTI.). Leukocytosis improved from 28 to 16.9.  Matching
   PEEP with potential autopeep.
   - Increasing pain control to see if this improves resp alkalosis
   - Following ABGs
   - Treat underlying infections as below.
   - Nebs PRN
   - Fentanyl and Midaz
   - Continue advair
   - Will discuss with team regarding parameters for which to consider
   extubation given that patient continues to have high Auto-Peep.
   .
   # Underlying Metabolic Acidosis: Lactate now 1.7. Gap and Non-Gap with
   improved Gap.  Pt with C. Diff, appears dry clinically and has
   enterobacter UTI previously untreated. Pt was +5L overnight.
   - IV fluid boluses PRN.
   - Cont Cipro for UTI
   - Cont IV Flagyl, PO Vanc for C. Diff
   - f/u blood, urine, and sputum cultures
   - Trend WBC count fever curve
   .
   # NSCLC
 No current treatments. Per Lung CA, ULE no movement at
   baseline.
   - Followed closely by Dr. [**Last Name (STitle) 161**]
   .
   # Hyponatremia
 Slightly improved at 131 from 135. Most likely
   secondary to giving LR boluses (130 of Na) overnight.
   - Will discuss with team potentially holding IVF now that the pt
   appears more clinically euvolemic.
   .
   # HTN -  BP elevates with agitation. Stable overnight.
   - Hydral PRN
   .
   # H/O breast CA: stable w/o recurrence
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-10-10**] 01:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2139-10-6**] 02:00 PM
   Arterial Line - [**2139-10-6**] 04:24 PM
   20 Gauge - [**2139-10-10**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: